US04442121
1-[2-Cyano-4-(4-fluorobenzoylamino)-phenoxy]-3-(2-methyl-but-3-in-2-yl-amino)-propan-2-ol
9 gm of 1-[2-cyano-4-(4-fluorobenzoyl-amino)phenoxy]-3-chloro-propan-2-ol were dissolved in 80 ml of ethanol, and 12.5 ml of 2-methyl-but-3-in-2-amine were added to the solution. After the mixture had been refluxed for 4 hours, the solvent was distilled off in vacuo, the residue was acidified with dilute HCl and washed with ether. The aqueous phase was made alkaline with NH4OH, the base precipitated thereby was extracted twice with ethyl acetate, and the organic phase was washed with H2O and dried over MgSO4. After the ethyl acetate had been distilled off, the crystalline residue was recrystallized twice from acetonitrile. 2.8 gm of colorless crystals of the base were isolated.

reactant | 1-[2-cyano-4-(4-fluorobenzoyl-amino)phenoxy]-3-chloro-propan-2-ol | 9 gm | C(#N)C1=C(OCC(CCl)O)C=CC(=C1)NC(C1=CC=C(C=C1)F)=O | C17H14ClFN2O3
reactant | 2-methyl-but-3-in-2-amine | 12.5 ml | CC(C)(C#C)N | C5H9N
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 1-[2-Cyano-4-(4-fluorobenzoylamino)-phenoxy]-3-(2-methyl-but-3-in-2-yl-amino)-propan-2-ol | 2.8 gm | C(#N)C1=C(OCC(CNC(C)(C#C)C)O)C=CC(=C1)NC(C1=CC=C(C=C1)F)=O | C22H22FN3O3
